Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
baclofen
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old male with history of TBI s/p VP shunt, with known 
abdominal hernia, who presented to OSH with acute onset 
epigastric pain found to have leukocytosis and distended 
gallbladder with 3-4mm wall thickness at OSH. He was transferred 
her for surgical evaluation. 
Pt states that at 11pm last night he had sudden onset of sharp 
___ epigastric pain that radiates to both sides and to the 
back. He reports nausea with this and that food feels like it is 
going "up and down". He reports vomiting x1 in the ED after 
being given morphine. He denies f/c/GERD/CP/sob, diarrhea, 
constipation, melena, brbpr, dysuria, urinary frequency, 
hematuria or hernia related pain.  

 In the ED, initial vitals were 98.1 64 103/53 16 97% on RA. 
Labs showed WBC 13.6K with 81% PMNs. LFTs were normal. He 
received 1 liter NS, piperacillin-tazobactam 4.5 gram x 1, 
morphine sulfate 2 mg IV x 2, ondansetron 4 mg IV x 2 and 
hydromorphone 0.5 mg IV x 1. OSH RUQ ultrasound showed 3-4mm 
gallbladder wall thickness, no pericholecystic fluid, no stones. 
OSH CT abdomen showed moderately distended gallbladder without 
evidence of stones, wall is mildly thickened with 
pericholecystic fluid. There was no pancreatitis, no 
nephrolithiasis, doubt small distal left ureretal stone. There 
was a 5.7 exophytic cyst mid lower pole L kidney, probably 
multiple cysts, and an atrophic left lower pole. She also 
received a dose of Zosyn at the OSH. UA showed 21 WBCs with 
moderate bacteria. Urine and blood cultures were sent. Surgery 
was consulted and said that they think the gall bladder is fine, 
but that there is more dilation of the ureter over the last 12 
hours. Urology was consulted, and said that this is a chronic 
issue, with the right side being normal and the left side being 
a duplicated system. There was determined no stone or 
obstruction. Vitals on transfer were 97.9 66 105/66 16 97% on 
RA.  
 
As above, pt reports ___ epigastric sharp pain.  
 
 Review of systems:  
10pt ROS Reviewed as per above and negative for headache, 
dizziness, ST, cough, CP, palpitations, paresthesias, weakness

 
Past Medical History:
TBI when senior in highschool s/p VP shunt
abdominal hernia 
 
Social History:
___
Family History:
grandfather and father with DM, nana with breast ca, mother with 
MS
 
Physical Exam:
GEn: well appearing, NAD
vitals:T 98.2 BP 101/59 HR 73 RR 16 sat 95% on RA
HEENT: L.sided skull with minor depression, L.eye smaller than 
R.eye, anicteric 
neck: supple
chest: b/l ae no w/c/r
heart: s1s2 rr no m/r/g
abd: +bs, soft, +TTP Epigastric area and RUQ, ND, no guarding or 
rebound, well healed scars, no hernia tenderness
ext: no c/c/e 2+pulses
neuro:speech fluent, facial asymmetry, L.skull minor depression, 
L.eye smaller
psych:calm, cooperative 

 
Pertinent Results:
___ 12:55PM   TYPE-ART COMMENTS-GREEN TOP 
___ 12:55PM   LACTATE-0.8
___ 12:50PM   ALT(SGPT)-35 AST(SGOT)-32 ALK PHOS-46 TOT 
BILI-0.8
___ 12:50PM   LIPASE-32
___ 12:50PM   ALBUMIN-4.4
___ 12:50PM   ___ PTT-32.8 ___
___ 12:10PM URINE  HOURS-RANDOM
___ 12:10PM URINE  HOURS-RANDOM
___ 12:10PM URINE  UHOLD-HOLD
___ 12:10PM URINE  GR HOLD-HOLD
___ 12:10PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-SM 
___ 12:10PM URINE  RBC-<1 WBC-21* BACTERIA-MOD YEAST-NONE 
EPI-0
___ 11:40AM   GLUCOSE-94 UREA N-11 CREAT-0.7 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-104 TOTAL CO2-23 ANION GAP-16
___ 11:40AM   estGFR-Using this
___ 11:40AM   WBC-13.6* RBC-4.44* HGB-13.5* HCT-40.5 MCV-91 
MCH-30.4 MCHC-33.3 RDW-13.1 RDWSD-43.6
___ 11:40AM   NEUTS-81.7* LYMPHS-8.7* MONOS-8.4 EOS-0.6* 
BASOS-0.2 IM ___ AbsNeut-11.15* AbsLymp-1.18* AbsMono-1.14* 
AbsEos-0.08 AbsBaso-0.03
___ 11:40AM   PLT COUNT-244
.
CT scan OSH:OSH RUQ ultrasound showed 3-4mm gallbladder wall 
thickness, no pericholecystic fluid, no stones. OSH CT abdomen 
showed moderately distended gallbladder without evidence of 
stones, wall is mildly thickened with pericholecystic fluid. 
There was no pancreatitis, no nephrolithiasis, doubt small 
distal left ureretal stone. There was a 5.7 exophytic cyst mid 
lower pole L kidney, probably multiple cysts, and an atrophic 
left lower pole

 
Brief Hospital Course:
___ w/TBI presented with abdominal pain. Initial concern for GB 
disease or GU issue. However pt seen by ACS who did not feel he 
had cholecystitis. This is also supported
by normal LFTs and pain improved with eating. Also evaluated by 
urology who noted that pt has a redundant L collecting system, 
no hydroureter and no acute GU issue. CT abd/pel without 
pancreatitis, colitis, biliary abnormality or incarcerated
hernia. LFTs and lipase wnl. Pain likely caused by acute 
gastritis. Pt given ranitidine and advanced to general diet. He 
ate a hamburger prior to discharge without abdominal pain or 
vomiting.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LeVETiracetam 1000 mg PO BID 
2. Vitamin D 1000 UNIT PO DAILY 
3. Calcium Carbonate 1000 mg PO DAILY 

 
Discharge Medications:
1. LeVETiracetam 1000 mg PO BID 
2. Vitamin D 1000 UNIT PO DAILY 
3. Calcium Carbonate 1000 mg PO DAILY 
4. Ranitidine 150 mg PO BID:PRN abdominal pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for abdominal pain. This was likely due to 
irritation of the lining of the stomach (gastritis). A CT scan 
did not show any entrapment of your hernia, gallbladder problems 
or inflammation of your colon or pancreas. There was no sign of 
infection.
 
Followup Instructions:
___